US05661184
Carbethoxymethyl Dimethylsulfonium Bromide
A solution of ethyl bromoacetate (265 g) and dimethyl sulfide (114 g) in acetone (500 mL) was stirred at room temperature. After three days, the title compound was isolated by filtration of the reaction mixture. Melting point 88°-90° C.

reactant | ethyl bromoacetate | 265 g | BrCC(=O)OCC | C4H7BrO2
reactant | dimethyl sulfide | 114 g | CSC | C2H6S
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | Carbethoxymethyl Dimethylsulfonium Bromide | [Br-].C(=O)(OCC)C[S+](C)C | InChI=1S/C6H13O2S.BrH/c1-4-8-6(7)5-9(2)3;/h4-5H2,1-3H3;1H/q+1;/p-1
